US07132428B2
b) 3-Methyl-5-phenyl-1H-pyrazolo[4,3-c]isoquinoline (B).
To a mixture of 565 mg of N-(3-Methyl-5-phenyl-1H-pyrazol-4-yl)-benzamide was added 5 mL of nitrobenzene followed by 270 μL of POCl3 and the resulting mixture was heated at 185° C. After 1 h, 0.4 mL of a SnCl4 solution (1.0 M solution in heptane) was added and the mixture was heated for an additional 2 h, then concentrated under reduced pressure and purified by means of MPLC (12 g SiO2, 35% ethyl acetate:heptane) to give the title compound as a tan solid.

reactant | N-(3-Methyl-5-phenyl-1H-pyrazol-4-yl)-benzamide | 565 mg | CC1=NNC(=C1NC(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C17H15N3O
reactant | nitrobenzene | 5 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | SnCl4 | 1.0 M, 0.4 mL | Cl[Sn](Cl)(Cl)Cl
solvent | POCl3 | 270 μL | O=P(Cl)(Cl)Cl | Cl3OP
product | 3-Methyl-5-phenyl-1H-pyrazolo[4,3-c]isoquinoline | CC1=NNC2=C1N=C(C=1C=CC=CC21)C2=CC=CC=C2 | C17H13N3
